US07009052B2
2-Oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonic acid benzylamide
Condensation of 2-oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride (Preparation 3, 16 mg, 51 μmol) with BnNH2 (7 μL, 54 μmol), employing NEt3 (8 μL, 57 μmol) as base as delineated in Example 1, gave the title compound (18 mg, 90%): δH ((CD3)2SO) =4.00 (d, 2H), 7.05 (s, 1H), 7.10–7.20 (m, 5H), 7.50 (d, 1H), 7.95 (dd, 1H), 8.00 (d, 1H), 8.30 (t, 1H); m/z (ES−)=381.0 [M−H]−.

reactant | 2-oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride | 51 μmol, 16 mg | O=C1NC2=CC=C(C=C2C(=C1)C(F)(F)F)S(=O)(=O)Cl | C10H5ClF3NO3S
reactant | BnNH2 | 54 μmol, 7 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | NEt3 | 57 μmol, 8 μL | CCN(CC)CC | C6H15N
product | 2-Oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonic acid benzylamide | 18 mg, 90% | C(C1=CC=CC=C1)NS(=O)(=O)C=1C=C2C(=CC(NC2=CC1)=O)C(F)(F)F | C17H13F3N2O3S
